US07700628B2
F. 6-Fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)phenyl]-4H-3,1-benzoxazin-4-one
A solution of 5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)-benzoylamino]benzoic acid (7.4 g, 16.8 mmol) in dry DMF (120 mL) was treated with S1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.42 g, 33.5 mmol). The reaction was stirred at ambient temperature overnight. The mixture was poured into brine (300 mL) and extracted with 10% MeOH in EtOAc (3×100 mL). The combined extracts were washed with water (2×400 mL), then brine (2×400 mL), dried over MgSO4, and concentrated to a solid which was purified by chromatography on silica, using 40/55/5 THF/Hex/Et3 N in hexanes, to give 3.4 g (48%) of a yellow solid.

reactant | 5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)-benzoylamino]benzoic acid | 16.8 mmol, 7.4 g | FC=1C=CC(=C(C(=O)O)C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O | C24H28FN3O4
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | brine | 300 mL | [Cl-].[Na+].O
product | 6-Fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)phenyl]-4H-3,1-benzoxazin-4-one | 3.4 g, 48% | FC=1C=CC2=C(C(OC(=N2)C2=C(C=C(C=C2)N2CCCC2)OC2CCN(CC2)C)=O)C1 | C24H26FN3O3
